US06632824B2
4-{3-[3-(3,4-Dichlorophenyl)-8-azabicyclo[3.2.1]oct-2-en-8-yl]propoxy-1H-indole
The title compound is prepared according to the procedure of Example 2, Step 3, except that 4-(3-chloropropoxy)-1H-indole is used in place of 4-(2-chloro-ethoxy)-1H-indole and 3-(3,4-dichloro-phenyl)-8-aza-bicyclo[3.2.1]oct-2-ene is used in place of 3-(8-aza-bicyclo[3.2.1]oct-2-en-3-yl)-1H-indole. The corresponding oxalate salt is prepared by treating the title compound with 1 equiv. of oxalic acid in EtOH. Yield: 22% of an off-white solid. mp: 150-153° C.; MS (ES) m/z: 427.2 (MH)+.

reactant | 4-(3-chloropropoxy)-1H-indole | ClCCCOC1=C2C=CNC2=CC=C1 | C11H12ClNO
reactant | 3-(3,4-dichloro-phenyl)-8-aza-bicyclo[3.2.1]oct-2-ene | ClC=1C=C(C=CC1Cl)C1=CC2CCC(C1)N2 | C13H13Cl2N
reactant | oxalic acid | 1 equiv. | C(C(=O)O)(=O)O | C2H2O4
reactant | EtOH | CCO | C2H6O
product | 3-[3-(3,4-Dichlorophenyl)-8-azabicyclo[3.2.1]oct-2-en-8-yl]propoxy-1H-indole | ClC=1C=C(C=CC1Cl)C1=CC2CCC(C1)N2CCCON2C=CC1=CC=CC=C21 | C24H24Cl2N2O
